US06797823B1
A starting compound (N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea, 100 mg), potassium carbonate (172 mg), and 1,2-dibromoethane (0.086 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give an intermediate (N-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-propylurea). The intermediate, potassium carbonate (138 mg), and morpholine (0.17 ml) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 80° C for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol to give 70 mg (yield 54%) of the title compound.

reactant | N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl}-N′-propylurea | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCCC | C20H20ClN3O4
reactant | potassium carbonate | 172 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 0.086 ml | BrCCBr | C2H4Br2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(4-{[7-(2-bromoethoxy)-6-methoxy-4-quinolyl]oxy}-2-chlorophenyl)-N′-propylurea | BrCCOC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl)OC | C22H23BrClN3O4
